US07777038B2
55.5 mg of potassium tert-butoxide was added to a DMSO solution (1 ml) of 90 mg of 5-(1-benzyl-8-hydroxy-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl)thiazolidine-2,4-dione, followed by stirring at room temperature for 1 hour. 30 μl of benzyl bromide was added thereto, followed by stirring at room temperature for 1 hour. Water was added to the reaction liquid, potassium hydrogensulfate was added to the mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by preparative silica gel thin layer chromatography (dichloromethane:methanol=20:1), giving 84.5 mg (76% yield) of 5-(1-benzyl-8-benzyloxy-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl)thiazolidine-2,4-dione as a colorless amorphous solid.

reactant | potassium tert-butoxide | 55.5 mg | CC(C)([O-])C.[K+]
reactant | 5-(1-benzyl-8-hydroxy-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl)thiazolidine-2,4-dione | 90 mg | C(C1=CC=CC=C1)N1C(CCC2=C(C=CC(=C12)O)CC1C(NC(S1)=O)=O)=O | C20H18N2O4S
reactant | benzyl bromide | 30 μl | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
solvent | Water | O | H2O
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | 5-(1-benzyl-8-benzyloxy-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl)thiazolidine-2,4-dione | 84.5 mg, 76% yield | C(C1=CC=CC=C1)N1C(CCC2=C(C=CC(=C12)OCC1=CC=CC=C1)CC1C(NC(S1)=O)=O)=O | C27H24N2O4S
